US05102897
A solution of 4-bromo-2,6-di-t-butylphenol (3.0 g, 10.5 mmol), 5-methylthio-1,3,4-thiadiazole-2-thiol (2.0 g, 12.2 mmol), and 1,8-diazabicyclo-[5.4.0]undecen-7-ene (1.8 mL, 12.0 mmol) in dimethylformamide (120 mL) is stirred at 55° to 70° C. for 48 hours. The reaction mixture is cooled and diluted with ether then washed four times with water and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives a solid residue which is crystallized from ethyl acetate/hexane yielding 2.4 g (63%) of analytically pure light brown platelets; mp 144.0°-145.0° C. The mother liquor is chromatographed on silica gel eluting with 1:9 then 2:8 ethyl acetate:hexane to yield an additional 0.7 g (18%) of 2,6-bis(1,1-dimethylethyl)-4-[[5-(methylthio)-1,3,4-thiadiazol-2-yl]thio]phenol.

reactant | 4-bromo-2,6-di-t-butylphenol | 10.5 mmol, 3.0 g | BrC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H21BrO
reactant | 5-methylthio-1,3,4-thiadiazole-2-thiol | 12.2 mmol, 2.0 g | CSC1=NN=C(S1)S | C3H4N2S3
reactant | 1,8-diazabicyclo-[5.4.0]undecen-7-ene | 12.0 mmol, 1.8 mL | N12C=CCCCC2=NCCC1 | C9H14N2
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2,6-bis(1,1-dimethylethyl)-4-[[5-(methylthio)-1,3,4-thiadiazol-2-yl]thio]phenol | 0.7 g, 18% | CC(C)(C)C1=C(C(=CC(=C1)SC=1SC(=NN1)SC)C(C)(C)C)O | C17H24N2OS3
